US08541430B2
Step-1: Synthesis of 2-methylsulfanyl-4-oxo-5,6,7,8-tetrahydro-4H-9-thia-1,4a-diaza-fluorene-3-carboxylic acid
The suspension of 4,5,6,7-tetrahydro-benzothiazol-2-yl-amine (8 gm, 0.0519 mol) and 5-(bis-ethylsulfanyl-methylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione (14.2 gm, 0.0572 mol) in ethanol (60 ml) was heated at 85-90° C. for 10 hours. Reaction mixture was cooled to room temperature and filtered. The solid, thus obtained, was washed with ethanol (20 ml) followed by with diethyl ether (50 ml) and suck dried to give 7.2 gm of title compound as a solid.

reactant | 4,5,6,7-tetrahydro-benzothiazol-2-yl-amine | 0.0519 mol, 8 gm | S1C(=NC2=C1CCCC2)N | C7H10N2S
reactant | 5-(bis-ethylsulfanyl-methylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione | 0.0572 mol, 14.2 gm | C(C)SC(=C1C(OC(OC1=O)(C)C)=O)SCC | C11H16O4S2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-methylsulfanyl-4-oxo-5,6,7,8-tetrahydro-4H-9-thia-1,4a-diaza-fluorene-3-carboxylic acid | 7.2 gm | CSC=1N=C2SC=3CCCCC3N2C(C1C(=O)O)=O | C12H12N2O3S2
